US04863959
A stirred mixture of the crude 4-bromo-2,3-difluoroaniline, 36 g of cuprous cyanide and 908 mL of DMF is heated 7 hours at reflux under an N2 atmosphere. After cooling, 900 mL of 10% aqueous NaCN is added and 45 minutes later 2 L of H2O. The black solution is extracted three times with CH2Cl2 (total volume 4 L). The CH2CL2 extract is washed with H2O, saturated NaHCO3 and H2O (500 mL of each) and then stripped in vacuo. The resulting black oil is purified by dry-column chromatography on silica gel using CH2CL2 as eluent. There is obtained 31.17 g (55% overall yield) of 4-amino-2,3-difluorobenzonitrile, m.p. 108°-110° C., with the expected ion at 156 in the mass spectrum and consistent NMR and IR spectral data.

reactant | 4-bromo-2,3-difluoroaniline | BrC1=C(C(=C(N)C=C1)F)F | C6H4BrF2N
reactant | DMF | 908 mL | CN(C)C=O | C3H7NO
reactant | NaCN | 900 mL | [C-]#N.[Na+]
solvent | H2O | 2 L | O | H2O
product | 4-amino-2,3-difluorobenzonitrile | 31.17 g, 55% | NC1=C(C(=C(C#N)C=C1)F)F | C7H4F2N2
